US07479502B2
Proceeding as in Reference 21, but substituting 5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide and 3-(3,4-dichlorophenyl)-propanoyl chloride, gave N-[3-(3,4-dichlorophenyl)-propanoyl]-5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide.

reactant | 5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)N | C14H12N2O6S
reactant | 3-(3,4-dichlorophenyl)-propanoyl chloride | ClC=1C=C(C=CC1Cl)CCC(=O)Cl | C9H7Cl3O
product | N-[3-(3,4-dichlorophenyl)-propanoyl]-5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide | ClC=1C=C(C=CC1Cl)CCC(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C23H18Cl2N2O7S
